US08304539B2
To a suspension of ethyl 5-amino-1,3,4-thiadiazole-2-carboxylate (106 mg, 0.612 mmol) in methanol (1.5 mL) was added 33 wt % ethanol solution of methylamine (0.5 mL, 4.00 mmol). The mixture was stirred at room temperature for 6 h, heated to 70° C. and cooled. The mixture was concentrated, mixed with water and lyophilized to give 5-amino-N-methyl-1,3,4-thiadiazole-2-carboxamide as a white solid (99 mg). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.69 (q, J=4.8 Hz, 1H), 7.70 (s, 2H) 2.73 (d, J=4.78 Hz, 3H); MS (ES+) m/z: 159 (M+H); LC retention time: 0.44 min (analytical HPLC Method A).

reactant | ethyl 5-amino-1,3,4-thiadiazole-2-carboxylate | 0.612 mmol, 106 mg | NC1=NN=C(S1)C(=O)OCC | C5H7N3O2S
reactant | ethanol | C(C)O | C2H6O
reactant | methylamine | 4.00 mmol, 0.5 mL | CN | CH5N
solvent | methanol | 1.5 mL | CO | CH4O
product | 5-amino-N-methyl-1,3,4-thiadiazole-2-carboxamide | 99 mg | NC1=NN=C(S1)C(=O)NC | C4H6N4OS
